US06166015
1-Benzyl-3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine (22.2 g, 0.76 mol) was dissolved in a mixture of methanol and acetic acid (1:1, 100 mL) and added to a Parr flask charged with palladium on carbon (10%, 4 g) suspended in methanol and acetic acid (1:1, 100 mL). The flask was transferred to the Parr reduction apparatus and the suspension shaken under an atmosphere of hydrogen at 60 psi for 2 days. The reaction mixture was filtered through a celite plug, eluting with a mixture of methanol/methylene chloride. The solvent was concentrated and the residue co-evaporated with toluene to afford 3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine as a colorless oil which was used directly.

reactant | 1-Benzyl-3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine | 0.76 mol, 22.2 g | C(C1=CC=CC=C1)N1CC(CC1)CNC(=O)OC(C)(C)C | C17H26N2O2
solvent | methanol | CO | CH4O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 4 g | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine | C(C)(C)(C)OC(=O)NCC1CNCC1 | C10H20N2O2
